US04216160
N-(2-phenylacetyl)-2-(acetylthio)acetamide
A reaction mixture comprising 6.65 g. (0.05 mole) of 2-(acetylthio)acetamide, 10 ml. of 2-phenylacetyl chloride, and 1 drop of sulfuric acid was heated in a steam bath for 0.5 hour, and then allowed to stand overnight at room temperature, after which it solidified. There was then added 50 ml. of ether and 20 ml. of hexane, followed by stirring for 10 minutes and then filtering. A yield of 8.5 g. of a tan solid was obtained, which was then chromatographed on 100 g. of silica gel, eluting with 5% ether in dichloromethane, followed by concentration to dryness. The solid was suspended in 60 ml. of ethanol and stirred in an ice bath for 1 hour. The product of white crystals, m.p. 153°-155° C., was obtained in a 5.6 g. yield.

reactant | 2-(acetylthio)acetamide | 0.05 mole | C(C)(=O)SCC(=O)N | C4H7NO2S
reactant | 2-phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | ether | CCOCC | C4H10O
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
solvent | hexane | CCCCCC | C6H14
product | N-(2-phenylacetyl)-2-(acetylthio)acetamide | C1(=CC=CC=C1)CC(=O)NC(CSC(C)=O)=O | C12H13NO3S
